US07691881B2
1(7) 5-Chloro-1-isopropyl-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylic acid
To a stirred solution of ethyl 5-chloro-1-isopropyl-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylate as prepared in 1(6) (203 mg, 0.79 mmol) in tetrahydrofuran (2 mL) and methanol (2 mL) was added 2N sodium hydroxide aqueous solution (2 mL) at room temperature, and the mixture was stirred at room temperature for 16 h. Then, the solvent was removed in vacuo. The residue was diluted with water (30 mL), acidified with 2N hydrochloric acid aqueous solution (pH˜2) and extracted with dichloromethane (50 mL×3). The combined organic layers were dried over magnesium sulfate and concentrated in vacuo to give 171 mg (94%) of the title compound as a white solid.

reactant | ethyl 5-chloro-1-isopropyl-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylate | ClC=1C=C(C(N(C1C)C(C)C)=O)C(=O)OCC | C12H16ClNO3
reactant | sodium hydroxide | 2N, 2 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | methanol | 2 mL | CO | CH4O
product | 5-Chloro-1-isopropyl-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylic acid | 171 mg, 94% | ClC=1C=C(C(N(C1C)C(C)C)=O)C(=O)O | C10H12ClNO3
